US05444072
By following the procedure of part A and substituting vinyltributyltin with ethyltributyltin, and substituting methyl (E) 6-(1,3-dihydro-7-methyl-3-oxo-4-p-toluenesulfonyloxy-6-trifluoromethanesulfonyloxyisobenzofuran-5-yl)-4-methyl-4-hexenoate with methyl (E) 6-(1,3-dihydro-7-methyl-3-oxo-4-p-toluenesulfonyloxy-6-trifluoromethanesulfonyloxyisobenzofuran-5yl)-3,4-dimethyl-4-hexenoate, there is obtained methyl (E) 6-(1,3-dihydro-6-ethyl-7-methyl-3-oxo-4-p-toluenesulfonyloxyisobenzofuran-5-yl)-3,4-dimethyl-4-hexenoate.

reactant | ethyltributyltin | C(C)[Sn](CCCC)(CCCC)CCCC
reactant | methyl (E) 6-(1,3-dihydro-7-methyl-3-oxo-4-p-toluenesulfonyloxy-6-trifluoromethanesulfonyloxyisobenzofuran-5yl)-3,4-dimethyl-4-hexenoate | CC=1C(=C(C(=C2C(OCC12)=O)OS(=O)(=O)C1=CC=C(C=C1)C)C/C=C(/C(CC(=O)OC)C)\C)OS(=O)(=O)C(F)(F)F | C26H27F3O10S2
product | methyl (E) 6-(1,3-dihydro-6-ethyl-7-methyl-3-oxo-4-p-toluenesulfonyloxyisobenzofuran-5-yl)-3,4-dimethyl-4-hexenoate | C(C)C1=C(C(=C2C(OCC2=C1C)=O)OS(=O)(=O)C1=CC=C(C=C1)C)C/C=C(/C(CC(=O)OC)C)\C | C27H32O7S
